US04000153
In the manner given in Example 4, 2'-chloro-5-nitro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone is heated with paraformaldehyde at 125° C. to give 2'-chloro-5-nitro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2'-chloro-5-nitro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1)C)=O | C16H11ClN4O3
reactant | paraformaldehyde | C=O | CH2O
product | 2'-chloro-5-nitro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1C)CO)=O | C17H13ClN4O4
